US07034045B1
Preparation of [2-Hydroxy-2-(4-nitrophenyl)propyl][(methylethyl)sulfonyl]amine
In a 500 mL, 3 neck flask fitted with a stirrer and thermometer, 2.98 g. of propanesulfonyl chloride was added dropwise to 3.92 g. of 2-hydroxy-2-(4-nitrophenyl)propylamine and 3.19 g. of DBU in CH2Cl2 (200 mL) while stirring at 0° C. under a nitrogen atmosphere. The reaction was allowed to warm to room temperature and stirred overnight at this temperature. In the morning, reaction was diluted with CH2Cl2 (100 mL) and the organic layer was washed two times with H2O, dried over Na2SO4, and concentrated under reduced vacuum to yield a viscous oil. This material was purified via silica gel chromatography employing the Water's Prep 2000 and eluting with a solvent of hexane/ethyl acetate 1:1 to yield the intermediate title compound (940 mg, 16%) as a viscous oil. Ion spray M.S. 302.1 (M*−1).

reactant | propanesulfonyl chloride | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | 2-hydroxy-2-(4-nitrophenyl)propylamine | OC(CN)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O3
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | [2-Hydroxy-2-(4-nitrophenyl)propyl][(methylethyl)sulfonyl]amine | 940 mg, 16% | OC(CNS(=O)(=O)C(C)C)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C12H18N2O5S
